US08193199B2
N-(1-(5-Chloro-2-(pyridin-2-yl)quinolin-3-yl)ethyl)-9H-purin-6-amine
Added 1-(5-chloro-2-(pyridin-2-yl)quinolin-3-yl)ethanamine (103 mg, 363 μmol), 6-bromopurine (72 mg, 363 μmol), n-butanol (2 mL) and DIPEA (190 μl, 1089 μmol) to a 10 mL flask. Submerged in an oil bath and heated at 110° C. for 40 h. The reaction mixture was concentrated on the rotavap to ˜0.5 mL of solvent, diluted with DCM, and chromatographed with 0-15% MeOH:DCM on 12 g silica gel column. The desired fractions were combined and concentrated to an oil which was dissolved in ACN:H2O and lyophilized to obtained 100 mg (69%) of a light tan solid. LC-MS (+esi, M+H+=402.1).

reactant | 1-(5-chloro-2-(pyridin-2-yl)quinolin-3-yl)ethanamine | 363 μmol, 103 mg | ClC1=C2C=C(C(=NC2=CC=C1)C1=NC=CC=C1)C(C)N | C16H14ClN3
reactant | 6-bromopurine | 363 μmol, 72 mg | BrC1=C2NC=NC2=NC=N1 | C5H3BrN4
reactant | DIPEA | 1089 μmol, 190 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
product | N-(1-(5-Chloro-2-(pyridin-2-yl)quinolin-3-yl)ethyl)-9H-purin-6-amine | 100 mg, 69% | ClC1=C2C=C(C(=NC2=CC=C1)C1=NC=CC=C1)C(C)NC1=C2N=CNC2=NC=N1 | C21H16ClN7
